US04046785
A 500 ml. electromagnetically stirred glass reactor was charged with 5.0 g (0.0167 mole) of dinitroanthraquinone (a mixture of 1,5-isomer and 1,8-isomer), 100 g (0.1 mole) of a 4% aqueous solution of sodium hydroxide and 0.25 g of 5% palladium-carbon. The inside of the reactor was purged with hydrogen, and the dinitroanthraquinone was hydrogenated at 30° C. with stirring. In 5 hours, 0.1169 mole of hydrogen was absorbed, the reaction was stopped. The reaction mixture was filtered in an atmosphere of nitrogen to separate the catalyst. Then, the filtrate was oxidized with air with stirring at 20° to 30° C. for 2 hours. The resulting crystals were filtered and dried to afford 3.9 g of diaminoanthraquinone (a mixture of 1,5-isomer and 1,8-isomer) in a yield of 97.5%.

reactant | dinitroanthraquinone | 0.0167 mole, 5.0 g | [N+](=O)([O-])C1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+](=O)[O-] | C14H6N2O6
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen | 0.1169 mole | [H][H] | H2
catalyst | palladium-carbon | 0.25 g | [C].[Pd]
product | diaminoanthraquinone | 3.9 g, yield of 97.5% | NC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)N | C14H10N2O2
